US05185346
To a stirred and cooled (-5/0° C.) solution of 5.4 parts of thiophene in 21.3 parts of 1,1'-oxybisethane were added portionwise 43.5 parts of a solution of n. butyllithium in hexanes 1.6M. After stirring for 20 min. at 0° C., there was added a solution of 5 parts of intermediate 16, namely 6-quinolinecarboxaldehyde, in 71.2 parts of tetrahydrofuran. Stirring at 0° C. was continued for 1 hour and then the reaction mixture was poured into 200 parts of ice-water. The product was extracted with 1,1'-oxybisethane and the extract was dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2 /CH3OH 95:5). The eluent of the desired fraction was evaporated, yielding 2.4 parts (31.1%) of α-(2-thienyl)-6-quinolinemethanol (interm. 17).

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | 1,1'-oxybisethane | O(CC)CC | C4H10O
reactant | butyllithium | C(CCC)[Li]
reactant | 6-quinolinecarboxaldehyde | N1=CC=CC2=CC(=CC=C12)C=O | C10H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-(2-thienyl)-6-quinolinemethanol | 31.1% | S1C(=CC=C1)C(O)C=1C=C2C=CC=NC2=CC1 | C14H11NOS
